US07642361B2
Additional preparation of 3-Amino-4-cyano-5-ethyl-thiophene-2-carboxylic acid ethyl ester
Ethanol, (11.0 L), 2-(1-ethoxy-propylidene)-malononitrile, (2.003 kg, 13.34 moles, 1.0 eq), ethyl-2-mercaptoacetate (1.652 kg, 13.34 moles, 1.0 eq.), and potassium acetate (1.983 kg, 20.0 moles, 1.5 eq.) are charged to a 22L 3-neck reaction flask equipped with an addition funnel, thermocouple, overhead stirrer, and condenser. The reaction mixture becomes dark red and exotherms to 72° C. The mixture is stirred for 1.25 hours while cooling to 60° C. Deionized water (2.6 L), is added to the reaction mixture over 30 minutes while cooling to 53° C. The reaction mixture is then cooled to 10° C. over 3.5 hours. The resulting suspension is filtered to recover the precipitate, and the filter cake is rinsed with a chilled mixture of 1.1 L ethanol and 3.9 L water. The filter cake is vacuum dried at room temperature, affording the title compound (2.552 kg) in 85.3% yield.

reactant | Ethanol | 11.0 L | C(C)O | C2H6O
reactant | 2-(1-ethoxy-propylidene)-malononitrile | 13.34 moles, 2.003 kg, 1.0 eq | C(C)OC(CC)=C(C#N)C#N | C8H10N2O
reactant | ethyl-2-mercaptoacetate | 13.34 moles, 1.652 kg, 1.0 eq. | C(C)OC(CS)=O | C4H8O2S
reactant | potassium acetate | 20.0 moles, 1.983 kg, 1.5 eq. | C(C)(=O)[O-].[K+]
solvent | water | 2.6 L | O | H2O
product | 3-Amino-4-cyano-5-ethyl-thiophene-2-carboxylic acid ethyl ester | 2.552 kg, 85.3% yield | C(C)OC(=O)C=1SC(=C(C1N)C#N)CC | C10H12N2O2S
